US04011324
N-Methyl-7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide
A mixture of ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate (300 mg., 0.90 mM) and ethanol (75 ml.) saturated with anhydrous monomethylamine is heated at 95° C. for 24 hours in a stainless steel bomb. The bomb and contents are cooled, the contents removed and concentrated to dryness under reduced pressure. The residue is recrystallized from chloroform/ethyl acetate to give 250 mg. (88%) of product, m.p. 334° C. (dec.).

reactant | ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | 0.90 mM, 300 mg | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)OCC | C16H15N3O5
reactant | monomethylamine | CN | CH5N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N-Methyl-7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide | CNC(=O)C=1NC(C=2C(=NC3=CC(=C(C=C3C2)OC)OC)N1)=O | C15H14N4O4
